US08138211B2
Preparation of 5-(4-amino-2,5-dimethylphenoxy)-3-tert-butylisothiazole-4-carbonitrile
A suspension of 5.0 g (24.9 mmol) of 3-tert-butyl-5-chloroisothiazole-4-carbonitrile, 3.41 g (24.9 mmol) of 2,5-dimethyl-4-hydroxyaniline and 5.51 g (39.86 mmol) of potassium carbonate in 100 ml of DMF is heated under reflux for 6 h. After cooling, the reaction mixture is poured onto ice-water. After extraction with dichloromethane, the combined organic phases are dried over Na2SO4 and freed from the solvent under reduced pressure.

reactant | 3-tert-butyl-5-chloroisothiazole-4-carbonitrile | 24.9 mmol, 5.0 g | C(C)(C)(C)C1=NSC(=C1C#N)Cl | C8H9ClN2S
reactant | 2,5-dimethyl-4-hydroxyaniline | 24.9 mmol, 3.41 g | CC1=C(N)C=C(C(=C1)O)C | C8H11NO
reactant | potassium carbonate | 39.86 mmol, 5.51 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5-(4-amino-2,5-dimethylphenoxy)-3-tert-butylisothiazole-4-carbonitrile | NC1=CC(=C(OC2=C(C(=NS2)C(C)(C)C)C#N)C=C1C)C | C16H19N3OS
